US07786155B2
A mixture of (+/−)-2-methyl-3-[2-(4-nitro-phenyl)-2-oxo-ethyl]-5-phenyl-5-propyl-3,5-dihydro-imidazol-4-one (528 mg, 1.4 mmol) and SnCl2.2H2O (1.92 g, 8.4 mmol) in 15 mL ethanol is heated to 80° C. for 2 hours. The reaction mixture is poured on to 1M sodium hydroxide solution and extracted with ethyl acetate. The combined organic phases are tried and evaporated to yield (+/−)-3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5-phenyl-5-propyl-3,5-dihydro-imidazol-4-one (475 mg, 97%). LCIMS at 254 nm; [M+H] 350; Rt 2.506 min.

reactant | (+/−)-2-methyl-3-[2-(4-nitro-phenyl)-2-oxo-ethyl]-5-phenyl-5-propyl-3,5-dihydro-imidazol-4-one | 1.4 mmol, 528 mg | CC1=NC(C(N1CC(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O)(CCC)C1=CC=CC=C1 | C21H21N3O4
reactant | SnCl2.2H2O | 8.4 mmol, 1.92 g | O.O.Cl[Sn]Cl
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | (+/−)-3-[2-(4-amino-phenyl)-2-oxo-ethyl]-2-methyl-5-phenyl-5-propyl-3,5-dihydro-imidazol-4-one | 475 mg, 97% | NC1=CC=C(C=C1)C(CN1C(=NC(C1=O)(CCC)C1=CC=CC=C1)C)=O | C21H23N3O2
